US05648370
a) 2-[2-Phenylethoxy]ethylidene propanedinitrile
β-Alanine (0.6 g) was added to a solution of [2-phenylethoxy]acetaldehyde (8.0 g) and malononitrile (3.5 g) in ethanol (100 ml). The mixture was stirred at room temperature for 3 hours. The solid was filtered off, washed with fresh ethanol and dried to yield the subtitled compound (5.85g, 54%).

reactant | β-Alanine | 0.6 g | NCCC(=O)O | C3H7NO2
reactant | [2-phenylethoxy]acetaldehyde | 8.0 g | C1(=CC=CC=C1)CCOCC=O | C10H12O2
reactant | malononitrile | 3.5 g | C(CC#N)#N | C3H2N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[2-Phenylethoxy]ethylidene propanedinitrile | 5.85g, 54% | C1(=CC=CC=C1)CCOCC=C(C#N)C#N | C13H12N2O
